US07728023B2
2-(4-bromo-1H-indol-3-yl)propanenitrile
To a tetrahydrofuran solution (10 mL) of 1, -dimethylethyl 4-bromo-3-(cyanomethyl)-1H-indole-1-carboxylate [CAS registration number 151726-05-5, Organic Letters 2003, 5(19), 3519-3522] (1.0 g), lithium diisopropylamide (2M tetrahydrofuran solution; 3.4 mL) was added dropwise at −78° C. and the mixture was stirred at the same temperature for one hour. To the mixture, methyl iodide (0.5 mL) was added, followed by stirring for one hour. The mixture was gradually heated to room temperature and methanol (2 mL) was added. The mixture was stirred overnight at room temperature and water was added under ice cooling, followed by extraction with ethyl acetate. The organic layer was washed in turn with water and saturated saline, dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=80:20 y 70:30) to obtain the titled compound having the following physical properties (0.35 g).

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | dimethylethyl 4-bromo-3-(cyanomethyl)-1H-indole-1-carboxylate | 1.0 g | BrC1=C2C(=CN(C2=CC=C1)C(=O)OC(C)(C)C)CC#N | C15H15BrN2O2
reactant | lithium diisopropylamide | 2M, 3.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 0.5 mL | CI | CH3I
solvent | water | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 2-(4-bromo-1H-indol-3-yl)propanenitrile | BrC1=C2C(=CNC2=CC=C1)C(C#N)C | C11H9BrN2
